US04971982
1 g of 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide was dissolved in 15 ml of phosphorus oxychloride, heated at 80° C. for 2 hours and allowed to cool to room temperature overnight. The phosphorus oxychloride was removed in vacuo and the residue was taken up in sodium bicarbonate solution and ethyl acetate. The aqueous phase was extracted several times with ethyl acetate and the combined ethyl acetate solutions were dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel. Elution with ethyl acetate/petroleum ether (1:4) gave 271 mg of 4-(6-chloro-2-pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile and elution with ethyl acetate/petroleum ether (1:2) gave 170 mg of 4-(4-chloro-2 -pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile.

reactant | 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | 1 g | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1 | C17H16N2O2
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(4-chloro-2 -pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 170 mg | ClC1=CC(=NC=C1)C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15ClN2O
